US07632838B2
To a flask containing 1,1,1-trifluoro-2-[4-({(2R)-2-methyl-4-[3-(trifluoromethyl)pyridin-4-yl]piperazin-1-yl}sulfonyl)phenyl]propan-2-ol (60 mg, 0.12 mmol) and 1.5 mL of DCM/MeOH (9/1, v/v) was added MMPP (74.6 mg, 0.15 mmol). The resulting slurry was stirred at room temperature over night. Reaction was complete as determined by TLC. This was filtered, washed with DCM. The filtrate was concentrated under reduced pressure. Purification by flash column chromatography to yield 1,1,1-trifluoro-2-[4-({(2R)-2-methyl-4-[1-oxido-3-(trifluoromethyl)pyridin-4-yl]piperazin-1-yl}sulfonyl)phenyl]propan-2-ol as a white solid (13.5 mg, 21.9 yield). HRMS: calcd for C20H21F6N3O4S+H+, 514.12297. found (ESI-FTMS, [M+H]1+), 514.12174.

reactant | 1,1,1-trifluoro-2-[4-({(2R)-2-methyl-4-[3-(trifluoromethyl)pyridin-4-yl]piperazin-1-yl}sulfonyl)phenyl]propan-2-ol | 0.12 mmol, 60 mg | FC(C(C)(O)C1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=NC=C1)C(F)(F)F)C)(F)F | C20H21F6N3O3S
reactant | MMPP | 0.15 mmol, 74.6 mg | C1=CC=C(C(=C1)C(=O)[O-])C(=O)O[O-].[Mg+2]
solvent | DCM MeOH | 1.5 mL | C(Cl)Cl.CO
product | 1,1,1-trifluoro-2-[4-({(2R)-2-methyl-4-[1-oxido-3-(trifluoromethyl)pyridin-4-yl]piperazin-1-yl}sulfonyl)phenyl]propan-2-ol | FC(C(C)(O)C1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=[N+](C=C1)[O-])C(F)(F)F)C)(F)F | C20H21F6N3O4S
